US07208629B2
6′-Methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylic acid (121 mg, 0.41 mmol), triethylamine (100 μl) and 1-(methylsulphonyl)-1H-benzotriazole (119 mg, 0.6 mmol) were mixed in THF (3 ml) and DMF (0.5 ml) and heated at reflux for 3 h. The reaction was concentrated under vacuum and partitioned between chloroform (5 ml) and water (5 ml). The aqueous was washed with chloroform (3 ml) and the combined organics reduced to dryness under vacuum. The residue was chromatographed on an SPE (silica, 5 g) eluting with chloroform, ether and ethylacetate, which after evaporation of the solvent under vacuum gave 4′-[(1H-1,2,3-benzotriazol-1-yl)carbonyl]-6-methyl-N-propyl-1,1′-biphenyl-3-carboxamide (150 mg).

reactant | 6′-Methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylic acid | 0.41 mmol, 121 mg | CC1=CC=C(C=C1C1=CC=C(C=C1)C(=O)O)C(=O)NCCC | C18H19NO3
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(methylsulphonyl)-1H-benzotriazole | 0.6 mmol, 119 mg | CS(=O)(=O)N1N=NC2=C1C=CC=C2 | C7H7N3O2S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4′-[(1H-1,2,3-benzotriazol-1-yl)carbonyl]-6-methyl-N-propyl-1,1′-biphenyl-3-carboxamide | 150 mg | N1(N=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)C2=CC(=CC=C2C)C(=O)NCCC | C24H22N4O2
